US08030497B2
5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-vinyl-1H-benzoimidazole
A mixture of 300 mg (0.556 mmol) 5-benzyl-4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole, 40 mg bis(triphenylphosphine) palladium (II) dichloride and 0.2 ml tributyl(vinyl)stannane in 3 ml THF is stirred at reflux temperature for 24 h. The reaction mixture is concentrated in vacuo and the residue is purified by flash-chromatography on silica gel (hexane:EtOAc=6:1) to afford 278 mg of the title compound as a yellow crystalline solid.

reactant | 5-benzyl-4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 0.556 mmol, 300 mg | C(C1=CC=CC=C1)C1=C(C2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC)I | C27H29IN2O2
reactant | tributyl(vinyl)stannane | 0.2 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine) palladium (II) dichloride | 40 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-vinyl-1H-benzoimidazole | 278 mg | C(C1=CC=CC=C1)C1=C(C2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC)C=C | C29H32N2O2
